US04146721
3.54 grams 1,3,5-triphenyl-pyrazol-4-acetic acid, 1.68 gram phosphorus oxychloride and 30 milliliters benzene were mixed and the mixture heated to the boiling temperature under reflux for 2 hours. The reaction mixture, containing in benzene solution the correspondingly substituted acetyl chloride was then added dropwise at 0° C. to 30 milliliters 25% aqueous ammonia solution. The mixture was permitted to stand over night at room temperature. Thereafter, 30 milliliteres water and enough ethylacetate were added to cause dissolution of the crystalline mass formed in the reaction mixture. The organic phase was separated, dried with magnesium sulfate, evaporated and the residue was recrystallized from a mixture of ethanol and water. 3.2 grams 1,3,5-triphenyl-pyrazol-4-acetamide, melting at 207°-207.5° C., were obtained, representing a yield of 91%.

reactant | 1,3,5-triphenyl-pyrazol-4-acetic acid | 3.54 grams | C1(=CC=CC=C1)N1N=C(C(=C1C1=CC=CC=C1)CC(=O)O)C1=CC=CC=C1 | C23H18N2O2
reactant | phosphorus oxychloride | 1.68 gram | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 milliliters | C1=CC=CC=C1 | C6H6
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 1,3,5-triphenyl-pyrazol-4-acetamide | 3.2 grams, yield of 91% | C1(=CC=CC=C1)N1N=C(C(=C1C1=CC=CC=C1)CC(=O)N)C1=CC=CC=C1 | C23H19N3O
